US05731438
Bromo-N-(benzyloxyl)acetamide
To a 0° C. solution of O-benzylhydroxylamine hydrochloride (1.6 g, 10 mmol) in THF (40 mL) was added bromoacetyl bromide (871 μL, 10 mmol) and diisopropylethylamine (3.5 mL, 20 mmol). The reaction mixture was warmed to room temperature overnight and diluted with ethyl acetate and water. The aqueous layer was separated and extracted with ethyl acetate. The organic layers were combined, dried over Na2SO4, filtered and concentrated in vacuo. The crude material was purified by silica gel flash column chromatography with ethyl acetate-hexane to give 1.27 g (52%) of the title compound.

reactant | O-benzylhydroxylamine hydrochloride | 10 mmol, 1.6 g | Cl.C(C1=CC=CC=C1)ON
reactant | bromoacetyl bromide | 10 mmol, 871 μL | BrCC(=O)Br | C2H2Br2O
reactant | diisopropylethylamine | 20 mmol, 3.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Bromo-N-(benzyloxyl)acetamide | 1.27 g, 52% | BrCC(=O)NOCC1=CC=CC=C1 | C9H10BrNO2
